Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][C:7]([H:8])([H:9])[O:10][H:11].[C:3]([H:4])([H:5])[H:6]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-3.77393815137
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2][H:3].[O:4]=[C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],2.01362449718
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[H:7],0.413999734048
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][O:2],6.261787106240001
[H:1][C:2][C:3]1([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][O:12]1>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][O:12],-0.88283946515
[H:1][O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[O:2]=[C:3]([H:4])[C:11]([H:12])[H:13]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],-0.131713792638
[H:1].[O:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.3502103440900002
[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[O:2],2.01365242266
[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:9]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-2.04706699866
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8],2.35565154298
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],4.427863262980001
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:10].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]([H:12])[H:13],1.76657244025
[H:6].[O:1][O:2][C:3][C:4]([H:5])[C:7]([H:8])([H:9])[H:10]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-2.24748538134
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][H:4],3.54931167835
[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-1.16161389987
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][O:8][C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]1[O:8][C:9]1([H:10])[H:11],-0.55756449242
[H:1][C:2]([H:3])[C:4]#[C:6][C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][O:8][C:9]([H:10])([H:11])[H:12],-4.33500422964
[C:6]([H:7])([H:8])[H:9].[H:1][C:2][O:3][C:4]([H:5])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.011532958469998
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11],5.12217913638
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C@@:3]([H:4])([C:5]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:6],4.87700797976
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:10].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]=[C:11]([H:12])[H:13],4.72744260089
[H:1][C:2][O:12][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]1=[C:3](/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[O:12]1,-2.40841662093
[O:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:9].[O:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])[H:8])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],4.61811748362
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11][H:12]>>[H:12].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11],3.73168425159
[H:7].[O:1]=[C:2]=[C:3]([O:4][C:5][H:6])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-3.91063413712
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[H:5],0.89725883855
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[H:9].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9],-4.19748829129
[H:1][C:2]#[C:3][O:4][C:5]=[O:6]>>[H:1][C:2]1=[C:3][O:4][C:5][O:6]1,0.73436990342
